US08304434B2
To a 500 ml round bottom flask was added tert-butyl 4-{1-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate (19 g, 61.8 mmol), potassium thioacetate (8.47 g, 74.2 mmol) and 90 ml dimethyl sulfoxide. The resulting reaction mixture was heated at 60° C. under nitrogen for 2 hours then at 45° C. for 18 hours. After cooling to room temperature, the reaction mixture was diluted with 300 ml ether, washed with 400 ml water and then 150 ml brine. The organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with 1:20 to 1:10 ethyl acetate/hexane to give 15 g tert-butyl 4-[1-(acetylthio)ethyl]piperidine-1-carboxylate as dark yellow sticky material. This material was dissolved in 100 ml MeOH. A solution of KOH (17.3 g, 309 mmol) in 150 ml water was added. The reaction mixture was flushed with nitrogen and stirred at 50° C. for 2 hours. After cooling to room temperature, the volume of reaction was reduced to 150 ml. Hexane (300 ml) was added. The layers were separated, and the aqueous portion was poured into an Erlenmyer flask with 250 ml saturated NH4Cl, and pH of the mixture was adjusted to 7 by addition of 3N HCl. This solution was extracted with 250 ml ether. The extracts were washed with 100 ml brine, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with 1:20 to 1:9 ethyl acetate/hexane to give 8.3 g desire product as light yellow sticky material.

reactant | tert-butyl 4-{1-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate | 61.8 mmol, 19 g | CS(=O)(=O)OC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H25NO5S
reactant | potassium thioacetate | 74.2 mmol, 8.47 g | C(C)(=S)[O-].[K+]
reactant | dimethyl sulfoxide | 90 ml | CS(=O)C | C2H6OS
solvent | ether | 300 ml | CCOCC | C4H10O
product | tert-butyl 4-[1-(acetylthio)ethyl]piperidine-1-carboxylate | 15 g | C(C)(=O)SC(C)C1CCN(CC1)C(=O)OC(C)(C)C | C14H25NO3S
